US07601722B2
In an analogous manner as described in general procedure V, 1-(5-bromopentyl)-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide (0.07 g, 0.18 mmol) was treated with 2,6-Dimethyl-piperazine (0.06 g, 0.54 mmol) to provide 0.08 g (88%) of 1-[5-(3,5-dimethylpiperazin-1-yl)pentyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide. MS (ES) m/z 447.0;

reactant | 1-(5-bromopentyl)-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.18 mmol, 0.07 g | BrCCCCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C17H18BrFN2O2S
reactant | 2,6-Dimethyl-piperazine | 0.54 mmol, 0.06 g | CC1NC(CNC1)C | C6H14N2
product | 1-[5-(3,5-dimethylpiperazin-1-yl)pentyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | 0.08 g, 88% | CC1CN(CC(N1)C)CCCCCN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O | C23H31FN4O2S
